US03989832
EXAMPLE 41- PREPARATION OF 3-(5-NITRO-1-ETHYL-2-IMIDAZOLYL)-6-HYDRAZINO-S-TRIAZOLO[4,3-b]PYRIDAZINE
3 g. 3-(5-nitro-1-ethyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b] pyridazine were dissolved in 30 ml. of a mixture of dioxan and methanol (1:1) and 3 ml. hydrazine hydrate were added thereto at 20° - 25° C., while stirring. The reaction mixture was further stirred for 45 minutes and the separated crystals were filtered off with suction, washed with a mixture of dioxan and methanol (1:1) and dried in vacuum at 120° C. There was thus obtained 0.66 g. of the desired 3-(5-nitro-1-ethyl-2-imidazolyl)-6-hydrazino-s-triazolo[4,3-b]pyridazine which melts, with foaming up, at 216° - 223° C.

reactant | 3-(5-nitro-1-ethyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b] pyridazine | [N+](=O)([O-])C1=CN=C(N1CC)C1=NN=C2N1N=C(C=C2)Cl | C10H8ClN7O2
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 3-(5-NITRO-1-ETHYL-2-IMIDAZOLYL)-6-HYDRAZINO-S-TRIAZOLO[4,3-b]PYRIDAZINE | [N+](=O)([O-])C1=CN=C(N1CC)C1=NN=C2N1N=C(C=C2)NN | C10H11N9O2
